US05102667
N,N'-carbonyldiimidazole (0.59 g) is added to a solution of (2-dimethylaminophenyl)acetic acid (0.65 g) in dry dichloromethane (20 cc) cooled to +4° C. The mixture is stirred for 90 minutes at 25° C. and a solution of 7,7-bis-(3-fluorophenyl)-4-perhydroisoindolone hydrochloride (1.3 g) and triethylamine (1.02 cc) in dry dichloromethane (25 cc) is then added dropwise. The reaction mixture is stirred for 16 hours at 25° C. and washed with water (2×250 cc) and with saturated sodium chloride solution (250 cc). The organic phase is dried over magnesium sulphate and concentrated to dryness under reduced pressure (2.7 kPa). The residue is chromatographed on a silica gel column (particle size 0.04-0.063 mm, diameter 2.3 cm, height 23 cm), eluting under a nitrogen pressure of 0.5 bar with a mixture of cyclohexane and ethyl acetate (55/45) and collecting 15 cc fractions. Fractions 6 to 18 are combined and concentrated to dryness under reduced pressure (2.7 kPa). The residue is solidified using isopropyl ether to give (3aRS,7aRS)-7,7-bis-(3-fluorophenyl)-2-(2-dimethylaminophenyl)acetyl-4-perhydroisoindolone (0.6 g), from which the hydrochloride is prepared by dissolving in ethyl acetate (1 cc) and adding a 3N solution of hydrochloric acid in isopropyl ether. The precipitate is drained, washed with isopropyl ether and dried. (3aRS,7aRS)-7,7-bis-(3-fluorophenyl)-2-(2-dimethylaminophenyl)acetyl-4-perhydroisoindolone hydrochloride (0.48 g) is obtained in the form of a white solid.

reactant | (2-dimethylaminophenyl)acetic acid | 0.65 g | CN(C1=C(C=CC=C1)CC(=O)O)C | C10H13NO2
reactant | 7,7-bis-(3-fluorophenyl)-4-perhydroisoindolone hydrochloride | 1.3 g | Cl.FC=1C=C(C=CC1)C1(CCC(C2CNCC12)=O)C1=CC(=CC=C1)F
reactant | triethylamine | 1.02 cc | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 20 cc | ClCCl | CH2Cl2
solvent | dichloromethane | 25 cc | ClCCl | CH2Cl2
product | (3aRS,7aRS)-7,7-bis-(3-fluorophenyl)-2-(2-dimethylaminophenyl)acetyl-4-perhydroisoindolone | 0.6 g | FC=1C=C(C=CC1)C1(CCC(C2CNC(C12)C(CC1=C(C=CC=C1)N(C)C)=O)=O)C1=CC(=CC=C1)F | C30H30F2N2O2
